US04341707
A solution of 0.223 g (0.001 mol) of N-benzyloxycarbonyl alanine (Z-Ala), 0.08 g (0.001 mol) of pyridine and 0.256 g (0.001 mol) of DSC in 10 ml of acetonitrile was stirred at ambient temperature. After silica gel TLC. showed that Z-Ala (the free acid form) disappeared in the solution, the reaction solution was concentrated to a small volume, and the concentrated solution was admixed with ethyl acetate and then washed with aqueous 4% NaHCO3, with 1 N-HCl and finally with a saturated aqueous solution of sodium chloride to remove the liberated N-hydroxysuccinimide. The solution so treated was distilled to remove the ethyl acetate. The resultant solid residue was admixed with a solution of 0.165 g (0.001 mol) of phenylalanine (Phe-OH) and 0.101 g (0.001 mol) of triethylamine in 20 ml of a mixed solvent of acetonitrile and water (4:6 by volume). 24 Hours later, the reaction solution was concentrated to a small volume, and the concentrated solution was admixed with ethyl acetate, washed with aqueous 4% NaHCO3, with 1 N-HCl and with a saturated aqueous solution of sodium chloride, followed by drying over anhydrous sodium sulfate. The dried solution was then filtered and the filtrate was distilled, affording a colorless crystalline substance. Recrystallization of this crystalline substance from methylene chloride-ethyl ether gave 0.34 g of N-benzyloxycarbonylalanyl-phenylalanine (Z-Ala-Phe-OH) as a colorless crystalline substance. Yield 90%.

reactant | N-benzyloxycarbonyl alanine | 0.001 mol, 0.223 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)O | C11H13NO4
reactant | pyridine | 0.001 mol, 0.08 g | N1=CC=CC=C1 | C5H5N
reactant | Z-Ala | N([C@@H](C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C11H13NO4
reactant | phenylalanine | 0.001 mol, 0.165 g | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | triethylamine | 0.001 mol, 0.101 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | N-benzyloxycarbonylalanyl-phenylalanine | 0.34 g, Yield 90% | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C20H22N2O5
